US08648066B2
7-[2-(methylthio)-1H-benzimidazol-6-yl]-4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine
A suspension of 5-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-dihydro-2H-benzimidazole-2-thione (355 mg, 0.84 mmol), potassium carbonate (578 mg, 4.18 mmol), and methyl iodide (119 mg, 0.84 mmol) in dimethylformamide (5 mL) was stirred at room temperature for 1 h. Ethyl acetate (100 mL) was added, and the organic layer was washed with water (2×20 mL), 5% aqueous lithium chloride (2×20 mL), and brine (20 mL), dried over sodium sulfate, filtered and concentrated. Column chromatography on silica (dichloromethane/methanol 95:5) provided the title Compound (220 mg, 60% yield) as a brown solid. 1H NMR (400 MHz, CDCl3): 8.71 (d, 1H), 8.09 (m, 2H), 7.66 (m, 1H), 7.57-7.42 (m, 5H), 7.17 (d, 1H), 6.98 (d, 1H), 4.54 (s, 2H), 4.36 (m, 2H), 3.84 (m, 2H), 2.82 (s, 3H); MS (EI) for C26H22N4OS: 439 (MH+).

reactant | 5-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-dihydro-2H-benzimidazole-2-thione | 0.84 mmol, 355 mg | N1=CC=C(C2=CC=CC=C12)N1CCOC2=C(C1)C=C(C=C2)C2=CC1=C(NC(N1)=S)C=C2 | C25H20N4OS
reactant | potassium carbonate | 4.18 mmol, 578 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.84 mmol, 119 mg | CI | CH3I
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 7-[2-(methylthio)-1H-benzimidazol-6-yl]-4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine | 220 mg, 60% yield | CSC1=NC2=C(N1)C=C(C=C2)C=2C=CC1=C(CN(CCO1)C1=CC=NC3=CC=CC=C13)C2 | C26H22N4OS
